US07485752B2
3-(2′,3′-Dimethyl-biphenyl-2-yl)-acrylic acid
A solution of 3-(2′,3′-dimethyl-biphenyl-2-yl)-acrylic acid ethyl ester (110 mg, 0.39 mmoles) in THF (3 ml)/2N NaOH (3 ml) was heated to 160° C. for 10 min in a microwave reactor. The mixture was cooled to rt and partitioned between 1N HCl and ethyl acetate. The organic layer was washed with water and brine, then dried over sodium sulfate and concentrated to afford the desired acid (100 mg, 100%).

reactant | 3-(2′,3′-dimethyl-biphenyl-2-yl)-acrylic acid ethyl ester | 0.39 mmoles, 110 mg | C(C)OC(C=CC1=C(C=CC=C1)C1=C(C(=CC=C1)C)C)=O | C19H20O2
reactant | NaOH | 2N, 3 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(2′,3′-Dimethyl-biphenyl-2-yl)-acrylic acid | 100 mg, 100% | CC1=C(C=CC=C1C)C1=C(C=CC=C1)C=CC(=O)O | C17H16O2
